US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 17, using 1.13 g (4.50 mmol) of 4-amino-1-(3-chlorobenzyl)-5-imidazolecarboxamide prepared in the same manner as in Example 51 and 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid instead of 3-pyridylacetic acid hydrochloride to obtain 1.61 g of 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(3-chlorobenzyl)-5-imidazolecarboxamide (yield 85%).

reactant | 4-amino-1-(3-chlorobenzyl)-5-imidazolecarboxamide | 4.50 mmol, 1.13 g | NC=1N=CN(C1C(=O)N)CC1=CC(=CC=C1)Cl | C11H11ClN4O
reactant | 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
product | 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(3-chlorobenzyl)-5-imidazolecarboxamide | 1.61 g, yield 85% | C(C)(C)(C)OC(=O)N(C)CC(=O)NC=1N=CN(C1C(=O)N)CC1=CC(=CC=C1)Cl | C19H24ClN5O4
